US07129242B2
1-Acetyl-4-[(4-{[4-(4-aminophenyl)pyrimidin-2-yl}amino}phenyl)carbonyl}piperazine
To a solution of 1-acetyl-4-[(4-{[4-(4-nitrophenyl)pyrimidin-2-yl}amino}phenyl)carbonyl}piperazine (150 mg, 0.34 mmol) in methanol (5 mL) containing a few drops of acetic acid, is added 100 mg of 10% Palladium-Charcoal. The solution is then hydrogenated at 50 psi for 6 h at which time there remains no starting material. The solution is then filtered through a pad of Celite which gives 135 mg (95%) of essentially pure reduced material as a brown oil.

reactant | 1-acetyl-4-[(4-{[4-(4-nitrophenyl)pyrimidin-2-yl}amino}phenyl)carbonyl}piperazine | 0.34 mmol, 150 mg | C(C)(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)NC1=NC=CC(=N1)C1=CC=C(C=C1)[N+](=O)[O-] | C23H22N6O4
solvent | methanol | 5 mL | CO | CH4O
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
catalyst | Palladium-Charcoal | 100 mg | [Pd] | Pd
product | 1-Acetyl-4-[(4-{[4-(4-aminophenyl)pyrimidin-2-yl}amino}phenyl)carbonyl}piperazine | C(C)(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)NC1=NC=CC(=N1)C1=CC=C(C=C1)N | C23H24N6O2
